US05663154
2-Amino-6-benzyloxy-9H-purine (0.60 g 2.5 mmoles) and 2',3'-dideoxy-3'-fluorouridine (0.5 g 2.2 mmoles) were suspended in potassium phosphate buffer (10 mM) 50 ml, pH 6.8, containing 0.04% potassium azide. Purified purine nucleoside phosphorylase (1070) I.U.) and thymidine phosphorylase (400 I.U.) (Krenitsky et al, Biochemistry, 20, 3615 (1981) and U.S. Pat. No. 4,381,344) were added to the reaction mixture and the suspension stirred at 37° C. After 24 hours, additional thymidine phosphorylase (2000 I.U.) was added and, after 14 days, an additional 10 mM potassium phosphate buffer 25 ml, pH 6.8, containing 0.04% potassium azide was added. Additional purine nucleoside phosphorylase (5400 I.U.) and thymidine phosphorylase (2000 I.U.) were added after 17 days. After a total reaction time of 33 days, denatured protein was removed by filtration. The precipitate was washed with methanol until all the UV absorbing material was eluted from the precipitate. The filtrate was diluted with water until the methanol content was <10% and this diluted sample was applied to a series of coupled columns. The initial column contained AG1-X2 (2.5×10 cm, OH form) while the second column contained XAD-2 (2.5×20 cm). After sample application, the columns were washed with water 800 ml and the product eluted with methanol. Product-containing fractions were flash chromatographed on silica gel (2.5×20 cm) using dichloromethane:methanol (9:1). Solvent was removed and lyophilization yielded 2-amino-6-benzyloxy-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-9H-purine (0.49 g).

reactant | 2-Amino-6-benzyloxy-9H-purine | 2.5 mmoles, 0.60 g | NC1=NC(=C2N=CNC2=N1)OCC1=CC=CC=C1 | C12H11N5O
reactant | 2',3'-dideoxy-3'-fluorouridine | 2.2 mmoles, 0.5 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 50 ml, pH 6.8 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | potassium phosphate | 10 mM, 25 ml, pH 6.8 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 2-amino-6-benzyloxy-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-9H-purine | 0.49 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@@H]([C@H](O1)CO)F)OCC1=CC=CC=C1 | C17H18FN5O3
